US05998463
EXAMPLE 14 1-Ethyl-2-oxo-5-propionyl-2,3-dihydro-1H-indole-3-carboxylic acid (3-phenylcarbamoyl-phenyl)-amide.
Prepared as in Example 1 from 1-ethyl-5-(2-ethyl-[1,3]dioxolan-2-yl)-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid methyl ester and 3-amino-N-phenyl-benzamide. Purified by flash-chromatography (chloroform/methanol, 20:1) followed by trituration in hexanes/ethyl acetate. mp 179-180° C.

reactant | 1-ethyl-5-(2-ethyl-[1,3]dioxolan-2-yl)-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid methyl ester | COC(=O)C1C(N(C2=CC=C(C=C12)C1(OCCO1)CC)CC)=O | C17H21NO5
reactant | 3-amino-N-phenyl-benzamide | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1 | C13H12N2O
product | 1-Ethyl-2-oxo-5-propionyl-2,3-dihydro-1H-indole-3-carboxylic acid (3-phenylcarbamoyl-phenyl)-amide | C1(=CC=CC=C1)NC(=O)C=1C=C(C=CC1)NC(=O)C1C(N(C2=CC=C(C=C12)C(CC)=O)CC)=O | C27H25N3O4
